Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / omeprazole
 
Attending: ___.
 
Chief Complaint:
Weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with history of atrial
fibrillation s/p cardioversion on apixaban, HTN, HLD, CKD,
depression presenting with 1 week of weakness.

The patient reports that about two weeks ago, she developed a
headache and felt tired, so she discontinued her statin and felt
better initially, but then she began to feel progressively 
weaker
and more tired. About 1 week prior to admission she had a fall
from standing. She denies any antecedent symptoms including 
chest
pain, palpitations, shortness of breath,
dizziness/lightheadedness. She hit her right hip and left
shoulder in the fall. She did not lose consciousness but did hit
her head. She also notes some exertional dyspnea; she tells me
that she had this years ago but this went away with her
cardioversion. 

She otherwise denies any cough, fevers, chills, dysuria,
frequency, abdominal pain, nausea, vomiting, diarrhea. She
reports that her appetite has been diminished in the last week,
and she has not had as much to eat or drink.

In the ED, initial vitals: 5 97.6 79 101/60 18 100% RA 
Exam notable for: Well-appearing, no acute distress; Ecchymosis
and tenderness to palpation of the left buttocks, no back
tenderness to palpation; Normal neurologic exam; Normal cardiac
and respiratory exam
Labs: WBC 13; K 2.8, BUN/Cr ___ Tb 1.6, LFTs otherwise wnl;
trop <0.01, proBNP 129; lactate 1.9; UA with 8 epis
Imaging notable for:
- NCHCT: No acute intracranial hemorrhage. No large territorial
infarction. Previously demonstrated right basal gangliar
intraparenchymal hemorrhage is not visualized.
- Pelvis plain films: No acute fracture or dislocation. 
- CXR: No acute cardiopulmonary abnormality.
- EKG: NSR, Qtc 509, TW flattening V2/V3 with submm TWD in V4-V6

Patient given: Potassium 40 mg PO and 10 mEq IV; IVF ordered but
not given.

On arrival to the floor, the patient reports that she feels
tired, but otherwise has no acute complaints
 
Past Medical History:
- Hypertension
- Hyperlipidemia
- Atrial fibrillation
- CKD
- Traumatic right thalamic intraparenchymal hemorrhage 
- GERD
- Diverticulosis
- OSA
- Osteopenia
- Anxiety
- Depression
- History of positive PPD
- S/p TAH/BSO
- S/p appendectomy
- S/p cholecystectomy
- S/p bilateral cataract surgery 
 
Social History:
___
Family History:
Mother died of breast cancer. Father died of
prostate cancer.
 
Physical Exam:
ADMISSION EXAM:

VITALS: 99.3 147/71 63 18 93 Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, neck veins flat
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength full and
symmetric bilaterally in all limbs
SKIN: Large bruise on right buttocks; small bruise on left
shoulder
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Pleasant, appropriate affect

Patient examined on day of discharge. AVSS, orthostatics 
negative, I walked with her in the hall with a walker, and on 
the stairs; she was able to climb 10 stairs with no difficulty.
 
Pertinent Results:
LABORATORY RESULTS:

___:40PM BLOOD WBC-13.1* RBC-4.60 Hgb-13.3 Hct-39.3 
MCV-85 MCH-28.9 MCHC-33.8 RDW-14.1 RDWSD-43.4 Plt ___
___ 06:45AM BLOOD WBC-7.1 RBC-4.01 Hgb-11.6 Hct-35.7 MCV-89 
MCH-28.9 MCHC-32.5 RDW-14.6 RDWSD-47.2* Plt ___
___ 06:40PM BLOOD Glucose-100 UreaN-29* Creat-1.8* Na-138 
K-2.8* Cl-91* HCO3-25 AnGap-22*
___ 04:55PM BLOOD Glucose-114* UreaN-27* Creat-1.5* Na-138 
K-3.9 Cl-99 HCO3-28 AnGap-11
___ 06:45AM BLOOD Glucose-93 UreaN-23* Creat-1.3* Na-142 
K-3.6 Cl-102 HCO3-26 AnGap-14
___ 06:40PM BLOOD ALT-19 AST-26 AlkPhos-52 TotBili-1.6*
___ 06:35AM BLOOD ALT-16 AST-21 CK(CPK)-175 AlkPhos-47 
TotBili-2.1* DirBili-0.5* IndBili-1.6
___ 06:45AM BLOOD ALT-14 AST-17 LD(LDH)-195 AlkPhos-41 
TotBili-1.0
___ 06:40PM BLOOD Albumin-4.3 Calcium-10.1 Phos-2.7 Mg-2.4
___ 06:35AM BLOOD TSH-0.90
___ 12:08AM BLOOD Lactate-1.9

Micro:
- Blood cultures (___): Pending
- Urine culture (___): Pending

Imaging/Studies:
- NCHCT: No acute intracranial hemorrhage. No large territorial
infarction. Previously demonstrated right basal gangliar
intraparenchymal hemorrhage is not visualized. 

- Pelvis plain films: No acute fracture or dislocation. 

- CXR: No acute cardiopulmonary abnormality.
 
Brief Hospital Course:
On admission, Ms. ___ was noted to be euvolemic, but with 
significant hypokalemia and acute kidney injury. She had 
recently been started on furosemide, and had increased diarrhea 
over the last several days, which likely explains her 
hypokalemia. She was given almost 200 mEq of oral potassium, 
with improvement of her K to 3.9. With her improved potassium, 
she was again able to walk at her baseline, including walking 
the stairs. She will be discharged on her home medications, with 
an additional 40 mEq of potassium each day as a supplement. She 
will follow up with her primary care provider.

Hospital course by problem:

1. Symptomatic hypokalemia
- daily KCl 40 mEq daily
- resume home furosemide

2. ___. Resolved with oral fluids.

3. HTN. Resumed home metoprolol and HCTZ-Triamterene.

4. Elevated direct bilirubin. Resolved; suspect due to her fall.

5. Traumatic right thalamic intraparenchymal hemorrhage. NCHCT 
negative upon admission.

> 30 minutes spent on discharge activities.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Amiodarone 200 mg PO DAILY 
2. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Acetaminophen 650 mg PO Q4H:PRN pain or temp > ___ 
5. Ranitidine 150 mg PO QHS:PRN GERD 
6. Apixaban 5 mg PO BID 
7. Sertraline 75 mg PO DAILY 
8. Furosemide 20 mg PO DAILY 

 
Discharge Medications:
1.  Potassium Chloride 40 mEq PO DAILY 
RX *potassium chloride 20 mEq 2 tablet(s) by mouth Daily Disp 
#*60 Tablet Refills:*0 
2.  Acetaminophen 650 mg PO Q4H:PRN pain or temp > ___  
3.  Amiodarone 200 mg PO DAILY  
4.  Apixaban 5 mg PO BID  
5.  Furosemide 20 mg PO DAILY  
6.  Ranitidine 150 mg PO QHS:PRN GERD  
7.  Sertraline 75 mg PO DAILY  
8.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
___ Diagnosis:
Symptomatic hypokalemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with weakness from having a low potassium 
level. After we gave you additional potassium, you dramatically 
improved. You should make sure to make a daily potassium 
supplement, and you should have your potassium checked in the 
next ___ weeks.
 
Followup Instructions:
___